* AMP04  SPICE Macro-model              Rev. A, 5/94
*                                       JCB / PMI
*
* Copyright 1994 by Analog Devices
*
* Refer to "README.DOC" file for License Statement.  Use of
* this model indicates your acceptance of the terms and pro-
* visions in the License Statement.
*
* Node assignments
*                Rgain1
*                |  IN-
*                |  |  IN+
*                |  |  |  V-
*                |  |  |  |  REF
*                |  |  |  |  |  Vout
*                |  |  |  |  |  |  V+
*                |  |  |  |  |  |  |  Rgain2
*                |  |  |  |  |  |  |  |
.SUBCKT AMP04    1  2  3  4  5  6  7  8
*
* INPUT STAGE
*
R1   2    9    2E3
R2   9   11    2E9
R3   11  12    2E9
R4   3   12    2E3
IB1  2   98    22E-9
IB2  3   98    21E-9
VOS  12  13    25E-6
D1   9   10    DY
D2   1   10    DY
D3   12  14    DY
D4   8   14    DY
*
* 1ST AMP GAIN STAGE, POLE AT 0.44 HZ
*
EREF 98   0    60 0 1
G1   98  15    9   1   1E-3
R5   98  15    1E9
C1   98  15    362E-12
* SECOND POLE AT 1 MHZ 
G3   98  16    15  98  1E-6
R6   98  16    1E6
C2   98  16    159E-15
* OUTPUT STAGE
E2   22  98    16  98  1
R14  22   1    200
*
* 2ND AMP GAIN STAGE, POLE AT 0.44 HZ
*
G2   98  17    13  23  1E-3
R7   98  17    1E9
C3   98  17    362E-12
* SECOND POLE AT 1 MHZ 
G4   98  18    17  98  1E-6
R8   98  18    1E6
C4   98  18    159E-15
* CMRR STAGE
E1   98  19    POLY(2) (2,98) (3,98) 0 5 5
R9   19  20    1E6
R10  20  98    1
* OUTPUT STAGE
E3   21  98    18  98  1
R11  21   8    11E3
R12  21  23    11E3
R13  23   5    100.2E3
*
* OUTPUT AMPLIFIER INPUT STAGE & POLE AT 10 KHZ
*
R15  29   4    5.16E3
R16  28   4    5.16E3
I1   7   30    10UA
EOS  27   3    POLY(1)  20  98  30E-6   1
Q1   29   8    30  QX
Q2   28  27    30  QX
R20  8    6    100.2E3
CIN  28  29    20E-12
*
* SECOND GAIN STAGE AND SLEW CLAMP
*
R71  31  98     1E6
G71  98  31     28  29  48.2E-6
D30  31  32     DX
D40  33  31     DX
E10  7   32     POLY(1) 7  98  -0.5  1
E20  33   4     POLY(1) 98  4  -0.5  1
*
* OUTPUT STAGE
*
RS1  7   60    1E6
RS2  60   4    1E6
ISY  7    4    0.124E-3
*
G7   34  36    31  98  5.5E-06
V3   35   4    DC  6
D7   36  35    DX
VB2  34   4    1.6
R22  37  36    1E3
R23  38  36    500
C6   37   6    50E-12
C7   38  39    50E-12
M1   39  36    4   4   MN  L=9E-6  W=1000E-6  AD=15E-9 AS=15E-9
M2   45  36    4   4   MN  L=9E-6  W=1000E-6  AD=15E-9 AS=15E-9
D8   39  47    DX
D9   47  45    DX
Q3   39  40    41  QPA  8
VB   7   40    DC  0.761
R24  7   41    375
Q4   41   7    43  QNA  1
R25  7   43    50
Q5   43  39    6   QNA  20
Q6   46  45    6   QPA  20
R26  46   4    23
Q7   36  46    4   QNA  1 
M3   6   36    4   4   MN  L=9E-6  W=2000E-6  AD=30E-9 AS=30E-9
*
.MODEL QNA NPN(BF=253)
.MODEL MN NMOS(LEVEL=3 VTO=1.3 RS=0.3 RD=0.3 TOX=8.5E-8 
+ LD=1.48E-6 WD=1E-6 NSUB=1.53E16 UO=650 DELTA=10 VMAX=2E5
+ XJ=1.75E-6 KAPPA=0.8 ETA=0.066 CJ=0 L=9E-6 W=2000E-6)
.MODEL QPA PNP(BF=61.5)
.MODEL QX PNP(BF=12500)
.MODEL DX D
.MODEL DY D(BV=6.0)
.ENDS
